US06558649B1
Step 5A. Synthesis of benzyl((1-(triphenylmethyl)imidazol-2-yl)methyl)amine
N-tritylimidazole-2-carboxaldehyde (338 mg, 1 mmol, prepared according to K. L. Kirk; J.Org.Chem., 1978, 43, 4381) was dissolved in dry toluene (7 mL) and anhydrous magnesium sulfate (602 mg, 5 mmol) added with stirring under nitrogen. Benzylamine (131 μL, 1.2 mmol) was added and the solution stirred for 3.5 hr. The solids were filtered under nitrogen and the reaction concentrated. The residue is redissolved in 1,2-dichloroethane (25 mL) and cooled to 0° C. Sodium triacetoxyborohydride (1.06 g, 5 mmol) was added slowly. The solution was allowed to warm to room temperature over 2.5 hours. The reaction mixture was added to water/ethyl acetate and the layers separated. The aqueous layer was extracted with two portions of ethyl acetate and the combined organic layers washed with sat. bicarbonate, water, and brine. The solution was concentrated to an oil and purified by flash chromatography on silica gel (99:1 EtOAc/EtOH with 0.1% triethylamine) to afford 330 mg (77%) of product as an oil which solidified on standing. LRMS (ES): 430.4 [M+H]+, 243.2; 1HNMR (600.1328 MHz, DMSO-d6): 7.37 (m, 11H), 7.04 (m, 9 H), 6.92 (d, 1H), 6.64 (d, 1H), 3.34 (s, 2H), 2.77 (2H).

reactant | N-tritylimidazole-2-carboxaldehyde | 1 mmol, 338 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1C(=NC=C1)C=O | C23H18N2O
reactant | magnesium sulfate | 5 mmol, 602 mg | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | Benzylamine | 1.2 mmol, 131 μL | C(C1=CC=CC=C1)N | C7H9N
reactant | Sodium triacetoxyborohydride | 5 mmol, 1.06 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | toluene | 7 mL | C1(=CC=CC=C1)C | C7H8
solvent | water ethyl acetate | O.C(C)(=O)OCC
product | benzyl((1-(triphenylmethyl)imidazol-2-yl)methyl)amine | 330 mg, 77% | C(C1=CC=CC=C1)NCC=1N(C=CN1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C30H27N3
